USRE041439E1
(1S,4S)-5-(5-(3-Methoxyphenoxy)-3-pyridyl)-2-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane
In a sealed pressure tube under an argon atmosphere, 3-bromo-5-(3-methoxyphenoxy)pyridine (0.53 g, 1.9 mmol), (1S,4S)-N-(tert-butoxycarbonyl)-2,5-diazabicyclo [2.2.1]heptane (0.469 g, 2.25 mmol), tris (dibenzylideneacetone)dipalladium(0) (0.050 g, 0.056 mmol), racemic-2,2′bis(diphenylphosphino)-1,1′binaphthyl (0.070 g, 0.11 mmol), sodium tert-butoxide (0.74 g, 7.5 mmol) and toluene (20 mL) was stirred at 70° C. for 24 h. The reaction mixture was poured into water (15 mL) and extracted with diethyl ether (3×30 mL). The combined diethyl ether extracts were dried (MgSO4), filtered and concentrated to a light-brown oil (1.3 g). The material was purified by chromatography on silica gel with ethyl acetate to gain a light-yellow oil (0.62 g, 83%).

reactant | 3-bromo-5-(3-methoxyphenoxy)pyridine | 1.9 mmol, 0.53 g | BrC=1C=NC=C(C1)OC1=CC(=CC=C1)OC | C12H10BrNO2
reactant | (1S,4S)-N-(tert-butoxycarbonyl)-2,5-diazabicyclo [2.2.1]heptane | 2.25 mmol, 0.469 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | racemic-2,2′bis(diphenylphosphino)-1,1′binaphthyl | 0.11 mmol, 0.070 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 7.5 mmol, 0.74 g | CC(C)([O-])C.[Na+]
catalyst | tris (dibenzylideneacetone)dipalladium(0) | 0.056 mmol, 0.050 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 15 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (1S,4S)-5-(5-(3-Methoxyphenoxy)-3-pyridyl)-2-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane | COC=1C=C(OC=2C=C(C=NC2)N2[C@@H]3CN([C@H](C2)C3)C(=O)OC(C)(C)C)C=CC1 | C22H27N3O4
